US07423035B2
8-{2-[1-(4-amino-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 342 mg (1 mmol) [4-(1-amino-cyclopropylmethyl)-phenyl]-dibenzyl-amine. Yield: 49 mg (10%, trifluoroacetate); mass spectroscopy: [M+H]+=370.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | [4-(1-amino-cyclopropylmethyl)-phenyl]-dibenzyl-amine | 1 mmol, 342 mg | NC1(CC1)CC1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H26N2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1-(4-amino-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-5-hydroxy-4H-benzo[1,4]oxazin-3-one | NC1=CC=C(CC2(CC2)NCC(O)C2=CC=C(C=3NC(COC32)=O)O)C=C1 | C20H23N3O4
